### PR TITLE
[Merged by Bors] - feat(RingTheory): golf `IsPrincipalIdealRing.of_prime`

### PR DESCRIPTION
**Pull request by yapudpill**
In complement to #28451 and as discussed in #27200, this PR uses the newly added Oka predicates to golf the proof of `IsPrincipalIdealRing.of_prime`.

---

- [x] depends on: #28525
- [x] depends on: #29567

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

**Comment by Ruben-VandeVelde** [comment]
It looks like you're removing a number of declarations; you need to add deprecations for those. (This might look like leaving them in place and just adding a "deprecated" attribute pointing at the new approach.)

**Comment by yapudpill** [comment]
> It looks like you're removing a number of declarations; you need to add deprecations for those. (This might look like leaving them in place and just adding a "deprecated" attribute pointing at the new approach.)

I was not very inspired so I added some basic deprecation messages, I'll improve them if needed.

**Comment by yapudpill** [comment]
-awaiting-author

File: Mathlib/RingTheory/PrincipalIdealDomainOfPrime.lean [hunk 1]
```diff
@@ -3,63 +3,63 @@ Copyright (c) 2018 Chris Hughes. All rights reserved.
...
 
-open Ideal
+variable {R : Type*} [CommSemiring R]
+
+namespace Ideal
+
+/-- If a commutative (semi)ring has a non-principal ideal, then it has an ideal which is maximal for
+not being principal. -/
+lemma exists_maximal_not_principal (h : ∃ I : Ideal R, ¬I.IsPrincipal) :
+    ∃ I : Ideal R, Maximal (¬·.IsPrincipal) I := by
```
Comment (kckennylau) [inline Mathlib/RingTheory/PrincipalIdealDomainOfPrime.lean]: So this is the second time I'm seeing this pattern (the first time is #28451), so I'm wondering if we can have an auxiliary lemma similar to [Ideal.IsOka.forall_of_forall_prime](https://leanprover-community.github.io/mathlib4_docs/Mathlib/RingTheory/Ideal/Oka.html#Ideal.IsOka.forall_of_forall_prime), but instead the condition `hmax : (∃ I, ¬P I) → ∃ I, Maximal (fun x => ¬P x) I` would be instead replaced with "for all nonempty chain of ideals, if their union satisfies P, then one of the elements satisfy P".

File: Mathlib/RingTheory/PrincipalIdealDomain.lean [hunk 2]
```diff
@@ -489,30 +489,35 @@ open Set Ideal
 variable (R) [CommRing R]
 
 /-- `nonPrincipals R` is the set of all ideals of `R` that are not principal ideals. -/
+@[deprecated "Write { I : Ideal R | ¬I.IsPrincipal } explicitely instead." (since := "2025-08-16")]
 def nonPrincipals :=
   { I : Ideal R | ¬I.IsPrincipal }
 
-theorem nonPrincipals_def {I : Ideal R} : I ∈ nonPrincipals R ↔ ¬I.IsPrincipal :=
+@[deprecated "See Ideal.nonPrincipals." (since := "2025-08-16")]
```
Comment (kckennylau) [inline Mathlib/RingTheory/PrincipalIdealDomain.lean]: I think you should add "Write { I : Ideal R | ¬I.IsPrincipal } explicitely instead." to the deprecation.

File: Mathlib/RingTheory/PrincipalIdealDomain.lean [hunk 3]
```diff
@@ -489,30 +489,35 @@ open Set Ideal
...
+theorem nonPrincipals_def {I : Ideal R} : I ∈ { I : Ideal R | ¬I.IsPrincipal } ↔ ¬I.IsPrincipal :=
   Iff.rfl
 
 variable {R}
 
-theorem nonPrincipals_eq_empty_iff : nonPrincipals R = ∅ ↔ IsPrincipalIdealRing R := by
-  simp [Set.eq_empty_iff_forall_notMem, isPrincipalIdealRing_iff, nonPrincipals_def]
+@[deprecated "See Ideal.nonPrincipals." (since := "2025-08-16")]
```
Comment (kckennylau) [inline Mathlib/RingTheory/PrincipalIdealDomain.lean]: ditto

**Comment by kckennylau** [comment]
Could you link to a discussion about deprecating `nonPrincipals` in the PR description?

File: Mathlib/RingTheory/PrincipalIdealDomainOfPrime.lean (hunk 1 above)
Comment (yapudpill) [reply Mathlib/RingTheory/PrincipalIdealDomainOfPrime.lean]: So we get
```lean
theorem forall_of_forall_prime' (hP : IsOka P)
    (hchain : ∀ C ⊆ {I | ¬P I}, IsChain (· ≤ ·) C → ∀ _ ∈ C, P (sSup C) → ∃ I ∈ C, P I)
    (hprime : ∀ I, I.IsPrime → P I) : ∀ I, P I := by sorry
```

I will open a separate PR so that #28451 can also use it

Edit: #29567

**Comment by yapudpill** [comment]
I think this one is ready to go

-awaiting-author

File: Mathlib/RingTheory/PrincipalIdealDomain.lean [hunk 4]
```diff
@@ -480,30 +480,39 @@ open Set Ideal
 variable (R) [CommRing R]
 
 /-- `nonPrincipals R` is the set of all ideals of `R` that are not principal ideals. -/
+@[deprecated "Write { I : Ideal R | ¬I.IsPrincipal } explicitely instead." (since := "2025-08-16")]
```
Comment (riccardobrasca) [inline Mathlib/RingTheory/PrincipalIdealDomain.lean]: You can make this an abbrev or notation, or something similar, but it seems a good idea to keep a short name.

File: Mathlib/RingTheory/PrincipalIdealDomain.lean [hunk 5]
```diff
@@ -480,30 +480,39 @@ open Set Ideal
...
+theorem nonPrincipals_eq_empty_iff :
+    { I : Ideal R | ¬I.IsPrincipal } = ∅ ↔ IsPrincipalIdealRing R := by
+  simp [Set.eq_empty_iff_forall_notMem, isPrincipalIdealRing_iff]
 
 /-- Any chain in the set of non-principal ideals has an upper bound which is non-principal.
 (Namely, the union of the chain is such an upper bound.)
 -/
-theorem nonPrincipals_zorn (c : Set (Ideal R)) (hs : c ⊆ nonPrincipals R)
+@[deprecated "Use Ideal.exists_maximal_not_principal instead." (since := "2025-08-16")]
+theorem nonPrincipals_zorn (c : Set (Ideal R)) (hs : c ⊆ { I : Ideal R | ¬I.IsPrincipal })
```
Comment (riccardobrasca) [inline Mathlib/RingTheory/PrincipalIdealDomain.lean:539]: Where is `Ideal.exists_maximal_not_principal`?

File: Mathlib/RingTheory/PrincipalIdealDomain.lean (hunk 4 above)
Comment (riccardobrasca) [reply Mathlib/RingTheory/PrincipalIdealDomain.lean]: So I think the best is having
```lean
/-- `nonPrincipals R` is the set of all ideals of `R` that are not principal ideals. -/
abbrev nonPrincipals := {I : Ideal R | ¬I.IsPrincipal}
```
And you can remove `nonPrincipals_def`. Moreover everything should be in the `Ideal` namespace.

File: Mathlib/RingTheory/PrincipalIdealDomain.lean (hunk 5 above)
Comment (yapudpill) [reply Mathlib/RingTheory/PrincipalIdealDomain.lean:539]: I forgot that it doesn't exist anymore. This was the bit of code which is now factored inside `IsPrincipalIdealRing.of_prime`

Comment (yapudpill) [reply Mathlib/RingTheory/PrincipalIdealDomain.lean:539]: Actually, is that lemma really useful?

I feel like its only use case is to feed it into zorn's lemma and in that case restoring `Ideal.exists_maximal_not_principal` (whose type was `¬IsPrincipalIdealRing R → ∃ I : Ideal R, Maximal (¬·.IsPrincipal) I`) seems cleaner.

Comment (riccardobrasca) [reply Mathlib/RingTheory/PrincipalIdealDomain.lean:539]: Mmm, yes, you are right. This version is better for the Oka thing or what?

Comment (yapudpill) [reply Mathlib/RingTheory/PrincipalIdealDomain.lean:539]: The Oka lemma wants either `∃ I, Maximal (¬·.IsPrincipal) I` (which seems nice to work with even outside the context of Oka predicates), or an even more specific version of the lemma we're commenting that states "For every chain of nonprincipal ideals, if the union of the chain is principal then one of its element is principal" (this is what we currently use hidden inside `IsPrincipalIdealRing.of_prime`)

Comment (riccardobrasca) [reply Mathlib/RingTheory/PrincipalIdealDomain.lean:539]: Yes, let's keep `∃ I, Maximal (¬·.IsPrincipal) I`.

Comment (riccardobrasca) [reply Mathlib/RingTheory/PrincipalIdealDomain.lean:539]: Ah, but someone pointed out that there was some code duplication using it? Or do I misremember?

Comment (yapudpill) [reply Mathlib/RingTheory/PrincipalIdealDomain.lean:539]: Yes, the way we obtain `∃ I, Maximal (¬P ·) I` for an Oka predicate `P` is always the same, which is why Kenny suggested to factor that part inside `IsOka.forall_of_forall_prime'` that require the more specific lemma instead

Comment (riccardobrasca) [reply Mathlib/RingTheory/PrincipalIdealDomain.lean:539]: Now I am confused: we need `¬ IsPrincipalRing R → ∃ I, Maximal ...` to use the Oka stuff, and having this it seems to me that [Ideal.IsOka.forall_of_forall_prime](https://leanprover-community.github.io/mathlib4_docs/Mathlib/RingTheory/Ideal/Oka.html#Ideal.IsOka.forall_of_forall_prime) works very well. Where is the code duplication?

Comment (riccardobrasca) [reply Mathlib/RingTheory/PrincipalIdealDomain.lean:539]: Ah, because we use Zorn both in the proof of [Ideal.IsOka.forall_of_forall_prime](https://leanprover-community.github.io/mathlib4_docs/Mathlib/RingTheory/Ideal/Oka.html#Ideal.IsOka.forall_of_forall_prime) and in the fact that there is a maximal nonprincipal ideal?

Comment (yapudpill) [reply Mathlib/RingTheory/PrincipalIdealDomain.lean:539]: You know what, let me just un-deprecate `nonPrincipals` and change this lemma to `¬ IsPrincipalRing R → ∃ I, Maximal ...` and let's see what it looks like

File: Mathlib/RingTheory/PrincipalIdealDomain.lean [hunk 6]
```diff
@@ -475,25 +475,22 @@ end
...
 variable {R}
 
 theorem nonPrincipals_eq_empty_iff : nonPrincipals R = ∅ ↔ IsPrincipalIdealRing R := by
-  simp [Set.eq_empty_iff_forall_notMem, isPrincipalIdealRing_iff, nonPrincipals_def]
+  simp [Set.eq_empty_iff_forall_notMem, isPrincipalIdealRing_iff]
 
 /-- Any chain in the set of non-principal ideals has an upper bound which is non-principal.
 (Namely, the union of the chain is such an upper bound.)
 -/
+@[deprecated "Use Ideal.exists_maximal_not_principal instead." (since := "2025-08-16")]
```
Comment (riccardobrasca) [inline Mathlib/RingTheory/PrincipalIdealDomain.lean]: There is no need to deprecate here, the statement is weird, I agree, but the "standard" one is right after. If you want a comment saying "If you want the existence of a maximal non principal ideal see `blahblah` below would be welcome".

File: Mathlib/RingTheory/PrincipalIdealDomain.lean [hunk 7]
```diff
@@ -503,7 +500,25 @@ theorem nonPrincipals_zorn (c : Set (Ideal R)) (hs : c ⊆ nonPrincipals R)
   obtain ⟨J, hJc, hxJ⟩ := (Submodule.mem_sSup_of_directed ⟨K, hKmem⟩ hchain.directedOn).1 hxmem
   have hsSupJ : sSup c = J := le_antisymm (by simp [hx, Ideal.span_le, hxJ]) (le_sSup hJc)
   specialize hs hJc
-  rw [← hsSupJ, hx, nonPrincipals_def] at hs
+  rw [← hsSupJ, hx] at hs
   exact hs ⟨⟨x, rfl⟩⟩
 
+theorem exists_maximal_not_principal (hR : ¬IsPrincipalIdealRing R) :
+    ∃ I : Ideal R, Maximal (¬·.IsPrincipal) I := by
+  rw [isPrincipalIdealRing_iff, not_forall] at hR
```
Comment (riccardobrasca) [inline Mathlib/RingTheory/PrincipalIdealDomain.lean]: Can this argument be abstracted? I mean, for an ordered (or whatever) set and any predicate.

Comment (yapudpill) [reply Mathlib/RingTheory/PrincipalIdealDomain.lean]: I don't see how, the proof uses some specific theorems about principal ideals

Comment (riccardobrasca) [reply Mathlib/RingTheory/PrincipalIdealDomain.lean]: Ah, `zorn_le_nonempty₀` is already the lemma I wanted. I mean the following: change the statement of `nonPrincipals_zorn` to
```lean
theorem nonPrincipals_zorn : ∀ c ⊆ nonPrincipals R, IsChain (· ≤ ·) c → ∀ K ∈ c,
    ∃ I ∈ nonPrincipals R, ∀ J ∈ c, J ≤ I := by
  intro c hs hchain K hKmem
  refine ⟨sSup c, ?_, fun J hJ ↦ le_sSup hJ⟩
  rintro ⟨x, hx⟩
  have hxmem : x ∈ sSup c := hx.symm ▸ Submodule.mem_span_singleton_self x
  obtain ⟨J, hJc, hxJ⟩ := (Submodule.mem_sSup_of_directed ⟨K, hKmem⟩ hchain.directedOn).1 hxmem
  have hsSupJ : sSup c = J := le_antisymm (by simp [hx, Ideal.span_le, hxJ]) (le_sSup hJc)
  specialize hs hJc
  rw [← hsSupJ, hx] at hs
  exact hs ⟨⟨x, rfl⟩⟩
```
then the proof of `exists_maximal_not_principal` is just
```lean
theorem exists_maximal_not_principal (hR : ¬IsPrincipalIdealRing R) :
    ∃ I : Ideal R, Maximal (¬·.IsPrincipal) I := by
  rw [isPrincipalIdealRing_iff, not_forall] at hR
  obtain ⟨I, hI⟩ := hR
  obtain ⟨J, -, hJ⟩ := zorn_le_nonempty₀ _ nonPrincipals_zorn _ hI
  exact ⟨J, hJ⟩
```
This is the point of `nonPrincipals_zorn`: it is the assumption used in Zorn's lemma.

Comment (riccardobrasca) [reply Mathlib/RingTheory/PrincipalIdealDomain.lean]: If you are in golf mood you can do
```lean
theorem nonPrincipals_zorn : ∀ c ⊆ nonPrincipals R, IsChain (· ≤ ·) c → ∀ K ∈ c,
    ∃ I ∈ nonPrincipals R, ∀ J ∈ c, J ≤ I := by
  refine fun c hs hchain K hKmem ↦ ⟨sSup c, fun ⟨x, hx⟩ ↦ ?_, fun J hJ ↦ le_sSup hJ⟩
  have hxmem : x ∈ sSup c := hx ▸ mem_span_singleton_self x
  obtain ⟨J, hJc, hxJ⟩ := (mem_sSup_of_directed ⟨K, hKmem⟩ hchain.directedOn).1 hxmem
  have hsSupJ := le_antisymm (by simp [hx, Ideal.span_le, hxJ]) (le_sSup hJc)
  exact hs hJc (by simpa [← hsSupJ, hx] using (inferInstance : (Submodule.span R {x}).IsPrincipal))
```

Comment (yapudpill) [reply Mathlib/RingTheory/PrincipalIdealDomain.lean]: > This is the point of `nonPrincipals_zorn`: it is the assumption used in Zorn's lemma.

And this is why I wanted to deprecate it, who will ever use this lemma without immediately feeding it into Zorn's lemma?

Comment (riccardobrasca) [reply Mathlib/RingTheory/PrincipalIdealDomain.lean]: It's unlikely, I agree, but who knows. It says "any chain has an upper bound", that is not a totally crazy statement, even if 99% of the time it will be used for Zorn lemma. Let's keep it.

File: Mathlib/RingTheory/PrincipalIdealDomain.lean [hunk 8]
```diff
@@ -475,35 +475,39 @@ end
...
+abbrev nonPrincipals := { I : Ideal R | ¬I.IsPrincipal }
 
 variable {R}
 
 theorem nonPrincipals_eq_empty_iff : nonPrincipals R = ∅ ↔ IsPrincipalIdealRing R := by
-  simp [Set.eq_empty_iff_forall_notMem, isPrincipalIdealRing_iff, nonPrincipals_def]
+  simp [Set.eq_empty_iff_forall_notMem, isPrincipalIdealRing_iff]
 
-/-- Any chain in the set of non-principal ideals has an upper bound which is non-principal.
+/-- Any nonempty chain in the set of non-principal ideals has an upper bound which is non-principal.
```
Comment (riccardobrasca) [inline Mathlib/RingTheory/PrincipalIdealDomain.lean]: Sorry for keeping bothering you with stupid things, but `K` is completely useless: if `c` is empty use `0`, otherwise do the same proof. Can you please modify the statement so that we can use `zorn_le_nonempty` in the other result? (Note that there is no `₀`, so the statement is slightly different.

Comment (yapudpill) [reply Mathlib/RingTheory/PrincipalIdealDomain.lean]: `zorn_le_nonempty` also requires the chain to be nonempty, do you mean `zorn_le₀`?

Comment (yapudpill) [reply Mathlib/RingTheory/PrincipalIdealDomain.lean]: > if c is empty use `0`

`⊥` is principal so it cannot be an upper bound of the empty chain

Comment (riccardobrasca) [reply Mathlib/RingTheory/PrincipalIdealDomain.lean]: My god this thing keeps confusing me. Assume `¬(IsPrincipalRing R)` that looks like the natural way of saying what we want.

**Comment by riccardobrasca** [comment]
LGTM, thanks! Since I participated quite a lot in writing the code

maintainer merge

File: Mathlib/RingTheory/PrincipalIdealDomain.lean [hunk 9]
```diff
@@ -475,35 +475,39 @@ end
...
-variable (R) [CommRing R]
+variable (R) [Semiring R]
 
 /-- `nonPrincipals R` is the set of all ideals of `R` that are not principal ideals. -/
-def nonPrincipals :=
-  { I : Ideal R | ¬I.IsPrincipal }
-
-theorem nonPrincipals_def {I : Ideal R} : I ∈ nonPrincipals R ↔ ¬I.IsPrincipal :=
-  Iff.rfl
+abbrev nonPrincipals := { I : Ideal R | ¬I.IsPrincipal }
```
Comment (erdOne) [inline Mathlib/RingTheory/PrincipalIdealDomain.lean:483]: Should this (and the other lemmas below) be deprecated (since it is moved into the `Ideal` namespace?
Why is `nonPrincipals` turned into an abbrev and why is `nonPrincipals_def` removed?

File: Mathlib/RingTheory/PrincipalIdealDomain.lean [hunk 10]
```diff
@@ -475,35 +475,39 @@ end
...
+  by_cases H : c.Nonempty
+  · obtain ⟨K, hKmem⟩ := Set.nonempty_def.1 H
+    refine ⟨sSup c, fun ⟨x, hx⟩ ↦ ?_, fun _ ↦ le_sSup⟩
+    have hxmem : x ∈ sSup c := hx.symm ▸ Submodule.mem_span_singleton_self x
+    obtain ⟨J, hJc, hxJ⟩ := (Submodule.mem_sSup_of_directed ⟨K, hKmem⟩ hchain.directedOn).1 hxmem
+    have hsSupJ : sSup c = J := le_antisymm (by simp [hx, Ideal.span_le, hxJ]) (le_sSup hJc)
+    exact hs hJc ⟨hsSupJ ▸ ⟨x, hx⟩⟩
+  · simpa [Set.not_nonempty_iff_eq_empty.1 H, isPrincipalIdealRing_iff] using hR
+
+theorem exists_maximal_not_principal (hR : ¬IsPrincipalIdealRing R) :
```
Comment (erdOne) [inline Mathlib/RingTheory/PrincipalIdealDomain.lean]:
```suggestion
theorem exists_maximal_not_isPrincipal (hR : ¬IsPrincipalIdealRing R) :
```

File: Mathlib/RingTheory/PrincipalIdealDomain.lean (hunk 9 above)
Comment (riccardobrasca) [reply Mathlib/RingTheory/PrincipalIdealDomain.lean:483]: Ah yes, deprecation is surely a good idea. I suggest to make the `abbrev` since it seems to me it's just a barrier that doesn't have a real purpose, but I have nothing against restoring it. `nonPrincipals_def` is useless I think with the `abbrev`.

**Review by jcommelin — COMMENTED** [review]
LGTM, modulo the remaining comments by Andrew.

bors d+

**Comment by yapudpill** [comment]
I keep forgetting that deprecated stuff can't use other deprecated stuff

**Comment by yapudpill** [comment]
Nice!

bors r+
